US05593984
Preparation of 8-carboxypyrrolo[1,2-a]pyrazine
To 1 g of 8-cyanopyrrolo[1,2-a]pyrazine prepared in Preparation Example 8 were added 10 ml of concentrated sulfuric acid, 10 ml of acetic acid and 10 ml of distilled water; and the mixture was refluxed for 1 hour. The reaction mixture was cooled and poured into 100 ml of ice-water. The resulting solid was filtered and dried under reduced pressure to obtain 0.5 g of title compound.

reactant | 8-cyanopyrrolo[1,2-a]pyrazine | 1 g | C(#N)C=1C=CN2C1C=NC=C2 | C8H5N3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 8-carboxypyrrolo[1,2-a]pyrazine | 0.5 g | C(=O)(O)C=1C=CN2C1C=NC=C2 | C8H6N2O2
